US03947456
The free base isolated from 4.00 g. of rac.-4-(3-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxy-2-methylisoquinoline hydrochloride is heated for an hour at 150° (bath temperature) with 80 ml. of 48% hydrobromic acid. After concentration, it is extracted with ethyl acetate and sodium bicarbonate solution. By acidification of the ethyl acetate extract with ethanolic hydrogen chloride and by crystallization and recrystallization from methanol-ether there is obtained rac.-4-(3-chlorophenyl)-1,2,3,4-tetrahydro-2-methyl-7-isoquinolinol hydrochloride, m.p. 258°-259°. The base released therefrom displays a m.p. of 196°-197° after recrystallization from ether-petroleum ether.

reactant | rac.-4-(3-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxy-2-methylisoquinoline hydrochloride | Cl.ClC=1C=C(C=CC1)C1CN(CC2=CC(=CC=C12)OC)C
reactant | hydrobromic acid | Br | BrH
product | rac.-4-(3-chlorophenyl)-1,2,3,4-tetrahydro-2-methyl-7-isoquinolinol hydrochloride | Cl.ClC=1C=C(C=CC1)C1CN(CC2=CC(=CC=C12)O)C | InChI=1S/C16H16ClNO.ClH/c1-18-9-12-8-14(19)5-6-15(12)16(10-18)11-3-2-4-13(17)7-11;/h2-8,16,19H,9-10H2,1H3;1H
